US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(3-methoxypropoxy)-4-methylbenzyloxy]piperidine-1-carboxylate
Analogously to Method D, 0.238 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.125 g of 4-chloromethyl-2-(3-methoxypropoxy)-1-methylbenzene are reacted. The title compound is obtained as a slightly yellowish oil. Rt=6.39.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.238 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 4-chloromethyl-2-(3-methoxypropoxy)-1-methylbenzene | 0.125 g | ClCC1=CC(=C(C=C1)C)OCCCOC | C12H17ClO2
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(3-methoxypropoxy)-4-methylbenzyloxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC(=C(C=C2)C)OCCCOC)C=CC=C1 | C39H53NO8
